US08058045B2
5-(6-Chloropyrimidin-4-ylamino)-3-methoxypyrazine-2-carbonitrile
5-Amino-3-methoxypyrazine-2-carbonitrile (9.2 mg, 0.061 mmol), 4,6-dichioropyrimidine (10 mg, 0.067 mmol), lithium bis(trimethylsilyl)amide (1M, 75 uL, 0.075 mmol), Pd2(dba)3 (3.5 mg, 5.5% mol) and 2-(di-tert-butyl-phosphino)biphenyl (2 mg, 0.0067 mmol) were mixed in THF (0.5 mL). The reaction mixture was heated at 135° C. for 60 minutes using microwave irradiation. The crude product was purified by preparative thin layer chromatography, eluting with EtOAc/n-hexane (1/2), to give the title compound as an oil (4.5 mg, 28%).

reactant | 5-Amino-3-methoxypyrazine-2-carbonitrile | 0.061 mmol, 9.2 mg | NC=1N=C(C(=NC1)C#N)OC | C6H6N4O
reactant | 4,6-dichioropyrimidine | 0.067 mmol, 10 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | lithium bis(trimethylsilyl)amide | 0.075 mmol, 1M, 75 uL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(di-tert-butyl-phosphino)biphenyl | 0.0067 mmol, 2 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 3.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(6-Chloropyrimidin-4-ylamino)-3-methoxypyrazine-2-carbonitrile | 4.5 mg, 28% | ClC1=CC(=NC=N1)NC=1N=C(C(=NC1)C#N)OC | C10H7ClN6O
